US04062864
3-(1-Piperidyl)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole
A solution of 10.2 g. of 4-(1-piperidyl)-cyclohexanone, 8.1 g. of 2,4-difluorophenylhydrazine, and 11 g. of methanesulfonic acid in 100 ml. of absolute ethyl alcohol was heated under reflux for 12 hours, cooled, filtered, and the filtrate was evaporated to dryness under reduced pressure. The residue was treated in ether with 10% potassium hydroxide solution and the ether extract was washed with water, dried, and treated with hydrogen chloride in ethyl alcohol (excess HCl was avoided). The resulting gummy precipitate was separated by decantation and suspended in boiling isopropyl alcohol. The hot mixture was filtered to give, after recrystallization from absolute ethyl alcohol, 4.5 g. of 3-(1-piperidyl)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole hydrochloride, m.p. > 290° C.

reactant | 4-(1-piperidyl)-cyclohexanone | N1(CCCCC1)C1CCC(CC1)=O | C11H19NO
reactant | 2,4-difluorophenylhydrazine | FC1=C(C=CC(=C1)F)NN | C6H6F2N2
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3-(1-Piperidyl)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole | N1(CCCCC1)C1CCC=2NC3=C(C=C(C=C3C2C1)F)F | C17H20F2N2
